US07700655B2
(1) 2-Amino-4-(2,4-dichlorophenyl)thiazole
Using 2′,4′-dichloroacetophenone and thiourea as the raw materials, the same operation as the Example 395(1) gave the title compound.

reactant | 2′,4′-dichloroacetophenone | ClC1=C(C=CC(=C1)Cl)C(C)=O | C8H6Cl2O
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-Amino-4-(2,4-dichlorophenyl)thiazole | Yield: 97.1% | NC=1SC=C(N1)C1=C(C=C(C=C1)Cl)Cl | C9H6Cl2N2S
